US05753679
0.2 g (0.000956 mol) of 1-(2-fluoro-benzyl)-piperidin-4-ol and 0.16 ml (0.00147 mol) of triethylamine were dissolved in 10 ml of toluene, treated with 0.122 ml (0.00105 mol) of benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 0.17 g (57%) of 1-(2-fluoro-benzyl)-piperidin-4-yl benzoate was obtained as a yellow oil.

reactant | 1-(2-fluoro-benzyl)-piperidin-4-ol | 0.000956 mol, 0.2 g | FC1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16FNO
reactant | triethylamine | 0.00147 mol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.00105 mol, 0.122 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-fluoro-benzyl)-piperidin-4-yl benzoate | 0.17 g, 57% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=C(C=CC=C1)F | C19H20FNO2
